US04000164
A mixture of 10.0 g (0.027 mole) of 2-[5-(tetradecyloxy)-2-furoyl]acetic acid, 4.4 g (0.027 mole) of N,N'-carbonyldiimidazole, and anhydrous tetrahydrofuran is stirred until the evolution of carbon dioxide stops. The mixture is cooled on an ice bath and 3.0 g (0.027 mole) of benzyl alcohol is added. The reaction is allowed to warm to room temperature and evaporated to dryness. The residue is extracted with ether-H2O. The ether layer is washed with 10% aqueous HCl, water, saturated sodium chloride, dried with sodium sulfate and evaporated to dryness affording 2-[5-(tetradecyloxy)-2-furoyl]acetic acid benzyl ester.

reactant | 2-[5-(tetradecyloxy)-2-furoyl]acetic acid | 0.027 mole, 10.0 g | C(CCCCCCCCCCCCC)OC1=CC=C(O1)C(=O)CC(=O)O | C21H34O5
reactant | carbon dioxide | C(=O)=O | CO2
reactant | benzyl alcohol | 0.027 mole, 3.0 g | C(C1=CC=CC=C1)O | C7H8O
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
product | 2-[5-(tetradecyloxy)-2-furoyl]acetic acid benzyl ester | C(C1=CC=CC=C1)OC(CC(=O)C=1OC(=CC1)OCCCCCCCCCCCCCC)=O | C28H40O5
